US06953852B2
More particularly, benzofuroxan is reacted with a stoichiometric excess of cyanamide in the presence of an organic base in a non-aqueous medium at about room temperature. When the reaction is complete the reaction mixture is treated with an organic acid to give tirapazamine.

reactant | benzofuroxan | C1=CC2=NO[N+](=C2C=C1)[O-] | C6H4N2O2
reactant | cyanamide | N#CN | CH2N2
product | tirapazamine | C=1C=CC2=C(C1)[N+](=C(N=[N+]2[O-])N)[O-] | C7H6N4O2
